US04985427
Dihydro-1-(3-iodophenyl)-4-methyl-1,2,4-triazine-3,5-(2H,4H)-dione
Methyl [1-(3-iodophenyl)-2-[(methylamino)carbonyl]hydrazino]acetate (2.0 g) was dissolved in methanol (60 ml) and sodium methoxide (0.64 g) was added. The solution was stirred under nitrogen for 1.5 h, added to pH 6.5 phosphate buffer solution (150 ml) and extracted with dichloromethane (100 ml). The organic phase was washed with water (100 ml) and brine (100 ml), dried and evaporated to give the title compound as a solid (0.6 g), m.p. 180°.

reactant | Methyl [1-(3-iodophenyl)-2-[(methylamino)carbonyl]hydrazino]acetate | 2.0 g | IC=1C=C(C=CC1)N(NC(=O)NC)CC(=O)OC | C11H14IN3O3
reactant | sodium methoxide | 0.64 g | C[O-].[Na+]
reactant | phosphate | 150 ml, pH 6.5 | P(=O)([O-])([O-])[O-]
solvent | methanol | 60 ml | CO | CH4O
product | Dihydro-1-(3-iodophenyl)-4-methyl-1,2,4-triazine-3,5-(2H,4H)-dione | 0.6 g | IC=1C=C(C=CC1)N1NC(N(C(C1)=O)C)=O | C10H10IN3O2
